US05428038
(±)-6-{3-[4-(3-chlorophenyl)-1-piperazinyl]-2-hydroxypropoxy}-7-methoxy-2H-1-benzopyran-2-one.
Method C (3 d at 40° C.); starting materials: 7-methoxy-6-(oxiranylmethoxy)-2H-1-benzopyran-2-one and 1-(3-chlorophenyl)-piperazine; yield 85%; fusion point 140°-141° C. (from isopropanol). Hydrochloride (×1.7 HCl): method F; yield 88%; fusion point 222°-224° C.

reactant | 7-methoxy-6-(oxiranylmethoxy)-2H-1-benzopyran-2-one | COC1=CC2=C(C=CC(O2)=O)C=C1OCC1OC1 | C13H12O5
reactant | 1-(3-chlorophenyl)-piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | Hydrochloride | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | (±)-6-{3-[4-(3-chlorophenyl)-1-piperazinyl]-2-hydroxypropoxy}-7-methoxy-2H-1-benzopyran-2-one | yield 85% | ClC=1C=C(C=CC1)N1CCN(CC1)CC(COC=1C(=CC2=C(C=CC(O2)=O)C1)OC)O | C23H25ClN2O5
